US07105533B2
A solution of 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone (520 mg, 1.7 mmol) and 2-aminothiazole (170 mg, 1.7 mmol) in ethanol (10 mL) was heated to reflux for 12 h, then concentrated. The residue was dissolved in ethyl acetate (25 mL) and washed with a solution of saturated aqueous sodium bicarbonate (25 mL), then dried (MgSO4) and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc to MeOH:EtOAc (1:19) to afford 6-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[2,1-b][1,3]thiazole.

reactant | 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone | 1.7 mmol, 520 mg | BrCC(=O)C1=CC(=C(C=C1)C1=NC=CC=C1)OC | C14H12BrNO2
reactant | 2-aminothiazole | 1.7 mmol, 170 mg | NC=1SC=CN1 | C3H4N2S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-(3-methoxy-4-pyridin-2-ylphenyl)imidazo[2,1-b][1,3]thiazole | COC=1C=C(C=CC1C1=NC=CC=C1)C=1N=C2SC=CN2C1 | C17H13N3OS
